US05663297
By condensing Z-Asp(OtBu)-OH and H-Val-OtBu there is obtained Z-Asp(OtBu)-Val-OtBu, m.p. 75° C. (n-hexane), yield: 93%.

reactant | Z-Asp(OtBu)-OH | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H21NO6
reactant | H-Val-OtBu | N[C@@H](C(C)C)C(=O)OC(C)(C)C | C9H19NO2
solvent | n-hexane | CCCCCC | C6H14
product | Z-Asp(OtBu)-Val-OtBu | yield: 93% | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C25H38N2O7
